* RC chain driven by a pulse source — exercises .param braces,
* continuation, subckt def/call, and the title-line convention.
* RC lowpass
.param rser = 1k cload = '1.2*1p'

.subckt rcstage in out
R1 in mid {rser}
C1 mid 0 {cload}
.ends rcstage

Vdd vdd 0 1.2
Vin in 0 pulse(0 1.2 0 100p 100p 1n 2n)
X1 in n1 rcstage rser = 2k
X2 n1 out rcstage
.tran 1p 10n
.end
